US05654307
A solution of 2-cyano-6-fluoro-3-nitropyridine (1.40 g, 8.39 mmol) in 90% H2SO4 (30 mL) is warmed at 70° C. for 90 min, then cooled, poured onto ice and basified with conc. ammonia. Extraction with EtOAc and workup gives 6-fluoro-3-nitropyridine-2-carboxamide (0.94 g, 61%). 1HNMR (CDCl3) δ 8.70 (1H, dd, J=8.9, 6.5 Hz), 8.30, 8.03 (1H, 1H, brs), 7.62 (1H, dd, J=8.9, 2.9 Hz).

reactant | 2-cyano-6-fluoro-3-nitropyridine | 8.39 mmol, 1.40 g | C(#N)C1=NC(=CC=C1[N+](=O)[O-])F | C6H2FN3O2
reactant | ammonia | N | H3N
reactant | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | 6-fluoro-3-nitropyridine-2-carboxamide | 0.94 g, 61% | FC1=CC=C(C(=N1)C(=O)N)[N+](=O)[O-] | C6H4FN3O3
